US08389771B2
Sonogashira reaction of (2,2,2-trifluoro-N-(3-hydroxy-3-(3-iodophenyl)propyl)acetamide) with 1-(but-3-ynyl)-4-methylbenzene yielded 2,2,2-trifluoro-N-(3-hydroxy-3-(3-(4-p-tolylbut-1-ynyl)phenyl)propyl)acetamide as yellow oil. Yield (0.310 g, 60%): 1H NMR (400 MHz, CDCl3) δ 7.29-7.51 (m, 4H), 7.17 (d, J=8.0 Hz, 2H), 7.13 (d, J=8.0 Hz, 2H), 4.84-4.86 (m, 1H), 3.66-3.70 (m, 1H), 3.38-3.43 (m, 1H), 2.89 (t, J=7.6 Hz, 2H), 2.67 (t, J=7.6 Hz, 2H), 2.33 (s, 3H), 2.25 (bs, 1H), 1.92-1.97 (m, 2H).

reactant | 2,2,2-trifluoro-N-(3-hydroxy-3-(3-iodophenyl)propyl)acetamide | FC(C(=O)NCCC(C1=CC(=CC=C1)I)O)(F)F | C11H11F3INO2
reactant | 1-(but-3-ynyl)-4-methylbenzene | C(CC#C)C1=CC=C(C=C1)C | C11H12
product | 2,2,2-trifluoro-N-(3-hydroxy-3-(3-(4-p-tolylbut-1-ynyl)phenyl)propyl)acetamide | FC(C(=O)NCCC(C1=CC(=CC=C1)C#CCCC1=CC=C(C=C1)C)O)(F)F | C22H22F3NO2
